
.subckt adder_subtractor A3 A2 A1 A0 B3 B2 B1 B0 M C S3 S2 S1 S0 Vdd GND
    X20 B0 M M0 Vdd GND XOR2
    X21 B1 M M1 Vdd GND XOR2
    X22 B2 M M2 Vdd GND XOR2
    X23 B3 M M3 Vdd GND XOR2
    
    XFA0 A0 M0 M S0 C0 Vdd GND FA
    XFA1 A1 M1 C0 S1 C1 Vdd GND FA
    XFA2 A2 M2 C1 S2 C2 Vdd GND FA
    XFA3 A3 M3 C2 S3 C Vdd GND FA
.ends adder_subtractor
