
.subckt and_4bit A3 A2 A1 A0 B3 B2 B1 B0 OUT3 OUT2 OUT1 OUT0 Vdd GND
    X39 A3 B3 OUT3 Vdd GND AND2
    X40 A2 B2 OUT2 Vdd GND AND2
    X41 A1 B1 OUT1 Vdd GND AND2
    X42 A0 B0 OUT0 Vdd GND AND2
.ends and_4bit