
.subckt decoder S0 S1 D0 D1 D2 D3 Vdd GND
    X1 S0 SN0 Vdd GND NOT
    X2 S1 SN1 Vdd GND NOT
    
    X3 S1 S0 D3 Vdd GND AND2
    X4 S1 SN0 D2 Vdd GND AND2
    X5 SN1 S0 D1 Vdd GND AND2
    X6 SN1 SN0 D0 Vdd GND AND2
.ends decoder